US05869518
5-fluoro-γ-oxo-α(S)-(phenylmethyl)-2,3-dihydro-1H-isoindole-2-butanoic acid.
150 mg of 10% palladized carbon are added to a solution of 1.18 g (2.83 mmol) of phenylmethyl 5-fluoro-γ-oxo-α(S)-(phenylmethyl)-2,3-dihydro-1H-isoindole-2-butanoate in 5 ml of ethyl acetate and the mixture is hydrogenated at the pressure of 20 psi (137,921 Pa) for 2.5 h. After filtration on celite and then evaporation of the solvent, the product is crystallized from diethyl ether. 0.6 g of a white solid is obtained. Yield 65%.

reactant | phenylmethyl 5-fluoro-γ-oxo-α(S)-(phenylmethyl)-2,3-dihydro-1H-isoindole-2-butanoate | 2.83 mmol, 1.18 g | FC=1C=C2CN(CC2=CC1)C(C[C@@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C26H24FNO3
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 5-fluoro-γ-oxo-α(S)-(phenylmethyl)-2,3-dihydro-1H-isoindole-2-butanoic acid | 0.6 g, Yield 65% | FC=1C=C2CN(CC2=CC1)C(C[C@@H](C(=O)O)CC1=CC=CC=C1)=O | C19H18FNO3
